US07005432B2
5-(2-Chloro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=285.2 (M+H+), was prepared from 2-chlorophenylboronic acid and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-chlorophenylboronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(2-Chloro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.ClC1=C(C=CC=C1)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C15H13ClN4.ClH/c1-11-17-6-7-20(11)10-13-8-12(9-18-19-13)14-4-2-3-5-15(14)16;/h2-9H,10H2,1H3;1H
